US06962932B2
7.48 g of thiophene-3-aldehyde was stirred in 65 ml of 40% NaHSO3 solution for two hours. After 15 g of N2-(4-fluorophenyl)-4-methoxybenzene-1,2-diamine in 50 ml of ethanol was added, it was boiled for 4 hours, and stirring was continued overnight. The batch was dispersed between water and ethyl acetate, and the organic phase was washed with water. After drying on sodium sulfate and concentration by evaporation of the filtrate, 18.1 g of crude 6-methoxy-1-(4-fluorophenyl)-2-(3-thienyl)-1H-benzimidazole is obtained.

reactant | thiophene-3-aldehyde | 7.48 g | S1C=C(C=C1)C=O | C5H4OS
reactant | N2-(4-fluorophenyl)-4-methoxybenzene-1,2-diamine | 15 g | FC1=CC=C(C=C1)NC=1C(=CC=C(C1)OC)N | C13H13FN2O
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | NaHSO3 | 65 ml | OS(=O)[O-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 6-methoxy-1-(4-fluorophenyl)-2-(3-thienyl)-1H-benzimidazole | 18.1 g | COC=1C=CC2=C(N(C(=N2)C2=CSC=C2)C2=CC=C(C=C2)F)C1 | C18H13FN2OS
